US08058045B2
A mixture of benzyl 4-((5-bromo-2-pivalamidopyridin-4-ylamino)methyl)piperidine-1-carboxylate (0.695 g, 1.24 mmol) and 6M HCl (10 mL) was heated at 105° C. for 45 mins by microwave irradiation. After cooling the volatiles were removed in vacuo. The residue was redissolved in MeOH and adsorbed onto (solute SCX-II acidic resin. The resin was washed with methanol, then 2M ammonia in methanol. The basic fractions were concentrated to give crude 5-bromo-N4-(piperidin-4-ylmethyl)pyridine-2,4-diamine (0.326 g, 92%), LCMS (4) Rt=0.51 min; m/z (ESI+) 285/287 (MH+). A solution of di-tert-butyl dicarbonate (0.249 g, 1 eq.) in dichloromethane (1 mL) was added dropwise to an ice-cooled solution of 5-bromo-N4-(piperidin-4-ylmethyl)pyridine-2,4-diamine (0.326 g, 1.14 mmol) and triethylamine (0.48 mL, 3 eq.) in dichloromethane (7.79 mL). The solution was stirred at 0° C. for 30 mis and then warmed to room temperature and stirred for a further 30 min. The mixture was concentrated. The crude product was purified by preparative TLC, eluting with 7% MeOH, 1% NH3, 92% dichloromethane, to give tert-butyl 4-((2-amino-5-bromopyridin-4-ylamino)methyl)piperidine-1-carboxylate (234 mg, 53%) as a white powder.

reactant | benzyl 4-((5-bromo-2-pivalamidopyridin-4-ylamino)methyl)piperidine-1-carboxylate | 1.24 mmol, 0.695 g | BrC=1C(=CC(=NC1)NC(C(C)(C)C)=O)NCC1CCN(CC1)C(=O)OCC1=CC=CC=C1 | C24H31BrN4O3
solvent | HCl | 6M, 10 mL | Cl | ClH
product | 5-bromo-N4-(piperidin-4-ylmethyl)pyridine-2,4-diamine | 0.326 g, 92% | BrC=1C(=CC(=NC1)N)NCC1CCNCC1 | C11H17BrN4
